US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(1-benzylpiperidin-4-yl)propanamide (AIT-0033)
250 mg. (1.06 mmol) 3-(1,6-dihydro-6-oxo-9H-purin-9-yl) propionic acid, ethyl ester (AIT-0027) was added to a 10 ml round bottom flask equipped with a magnetic stirring bar, reflux condenser and CaCl2 drying tube. Then, 604 mg (3.17 mmol) 4-amino-1-benzyl-piperidine and 1 ml acetonitrile were added and the solution was brought to reflux. Reflux was continued for 17 hours. Aacetonitrile was evaporated and the mixture was heated at 120° C. for eight hours to yield a dark viscous oil. The oil was treated with ether while stirring. The solution was filtered and the orangebrown solid was washed with additional ether. Upon drying, 385 mg of a brown solid was obtained. The solid was stirred in acetone, filtered, washed with acetone and then with ether. This yielded 200 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(1-benzylpiperidin-4-yl)propanamide (AIT-0033) as a tan solid. Analysis by HPLC indicated that the product was 65% pure.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl) propionic acid, ethyl ester | 1.06 mmol | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | 4-amino-1-benzyl-piperidine | 3.17 mmol, 604 mg | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(1-benzylpiperidin-4-yl)propanamide | 385 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C20H24N6O2
